US06489476B1
A solution of 2,4,6-collidine (1 mmole) in carbon tetrachloride was treated with NBS (5 mmole) and dibenzoyl peroxide (0.25 mmole) at 80° C. for 12 h. The reaction mixture was cooled to 0° C. and the precipitate was filtered. The filtrate was concentrated under vacuum. Chromatography gave 2-bromomethyl-4,6-dimethylpyridine.

reactant | 2,4,6-collidine | 1 mmole | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | NBS | 5 mmole | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.25 mmole | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-4,6-dimethylpyridine | BrCC1=NC(=CC(=C1)C)C | C8H10BrN
